US08304419B2
Step D: 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-6-yl)carbamate
HATU (0.104 g, 0.272 mmol) was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.056 g, 0.182 mmol), 6-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid (0.050 g, 0.182 mmol) and DIPEA (0.048 mL, 0.272 mmol) in DMF (1.5 mL). The mixture was stirred at RT for 1.5 h. The reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with water and brine, dried over sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (hexane/EtOAc) to give the title compound (0.056 g, 48%) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ ppm 9.74 (s, 1H), 7.78 (s, 1H), 7.44 (d, 1H), 7.27-7.37 (m, 2H), 7.21 (dd, 1H), 7.08-7.13 (m, 1H), 6.98 (d, 1H), 6.74-6.86 (m, 3H), 6.63 (s, 1H), 4.66 (d, 2H), 1.50 (s, 9H). MS: m/z 569 (M+1).

reactant | HATU | 0.272 mmol, 0.104 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.182 mmol, 0.056 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 6-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylic acid | 0.182 mmol, 0.050 g | CC(C)(C)OC(=O)NC1=CC=C2C=C(NC2=C1)C(=O)O | C14H16N2O4
reactant | DIPEA | 0.272 mmol, 0.048 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1,1-dimethylethyl (2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-indol-6-yl)carbamate | 0.056 g, 48% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC(=CC=C2C1)NC(OC(C)(C)C)=O)F)OC1=CC(=CC(=C1)C#N)Cl | C28H23Cl2FN4O4
